US07709645B2
3,6-Dichloro-pyridazine-4-carboxylic acid (500 mg, 2.59 mmol) was dissolved in dichloromethane (2 mL), treated with di-iso-propylamine (454 μL, 2.59 mmol) and cooled in an ice water bath. Pivaloyl chloride (318 μL, 2.59 mmol) was added and the mixture was stirred for 25 minutes. 2 M dimethylamine (2.59 mL, 5.18 mmol) was added and the reaction was stirred 15 h. The mixture was washed with saturated ammonium chloride (1×), saturated sodium bicarbonate (1×), and dried over sodium sulfate to afford 3,6-dichloro-pyridazine-4-carboxylic acid dimethylamide (353 mg, 62.2%). MS: m/z 220 (M+H+).

reactant | 3,6-Dichloro-pyridazine-4-carboxylic acid | 2.59 mmol, 500 mg | ClC=1N=NC(=CC1C(=O)O)Cl | C5H2Cl2N2O2
reactant | di-iso-propylamine | 2.59 mmol, 454 μL | C(C)(C)NC(C)C | C6H15N
reactant | Pivaloyl chloride | 2.59 mmol, 318 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | dimethylamine | 5.18 mmol, 2 M, 2.59 mL | CNC | C2H7N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3,6-dichloro-pyridazine-4-carboxylic acid dimethylamide | 353 mg, 62.2% | CN(C(=O)C1=C(N=NC(=C1)Cl)Cl)C | C7H7Cl2N3O
